US04992455
3-(2-Hydroxyethyl)-5-methyl-2-(3-pyridyl)- thiazolidin-4-one (18.75 g, 78.7 mmol) was dissolved in methylene chloride (200 ml). Pyridine (9.55 ml, 118 mmol) was added and further, thionyl chloride (20 ml, 274 mmol) was added dropwise over 2 hours at 0 to 5° C. This reaction mixture was kept between those temperatures for 5 hours. The resulting mixture was washed with aqueous NaHCO3 and aqueous NaCl, dried, and the solvent was removed in vacuo. The residue was chromatographed on silica gel and upon recrystallization from hexane-ether, gave 2,5-cis-3-(2-chloroethyl)-5-methyl-2-(3-pyridyl)thiazolidin-4-one (7.11 g) and 2,5-2-chloroethyl)-5-methyl-2-(3-pyridyl)thiazolidin-4one (3.11 g), (51% yield).

reactant | 3-(2-Hydroxyethyl)-5-methyl-2-(3-pyridyl)- thiazolidin-4-one | 78.7 mmol, 18.75 g | OCCN1C(SC(C1=O)C)C=1C=NC=CC1 | C11H14N2O2S
reactant | Pyridine | 118 mmol, 9.55 ml | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 274 mmol, 20 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 5-methyl-2-(3-pyridyl)thiazolidin-4one | 3.11 g, 51% yield | CC1C(NC(S1)C=1C=NC=CC1)=O | C9H10N2OS
